US09388185B2
Step 3. 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine
To a stirred solution of 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (1.10 g, 2.61 mmol) in tetrahydrofuran (8 mL)/methanol (10 mL), was added Pd/C (10% w/w, 580 mg, 0.545 mmol). The resulted mixture was stirred under H2 (45 psi) at ambient temperature. After 24 hours, the palladium catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to afford the desired product (1.05 g, 90%), which was used directly in the next step without further purification. LCMS calculated for C22H22N3O4S (M+H)+: m/z=424.2. Found: 424.2; 1H NMR (400 MHz, CDCl3): δ 8.18-8.15 (m, 3H), 7.97 (d, J=4.4 Hz, 1H), 7.63-7.59 (m, 1H), 7.53-7.48 (m, 2H), 6.80 (d, J=4.4 Hz, 1H), 6.34 (d, J=2.0 Hz, 2H), 6.30 (t, J=2.4 Hz, 1H), 3.73 (s, 6H), 3.19-3.15 (m, 2H), 3.02-2.98 (m, 2H) ppm.

reactant | 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 2.61 mmol, 1.10 g | COC=1C=C(C=C(C1)OC)/C=C/C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H19N3O4S
reactant | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.545 mmol, 580 mg | [Pd] | Pd
product | 2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 1.05 g, 90% | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H21N3O4S
